US09303033B2
To tert-butyl 5-chloro-3-formylpyrazolo[1,5-a]pyrimidin-7-yl(cyclopropyl)carbamate (1 g, 2.97 mmol) in 30 mL of a 2:1 mixture of 1,2-dimethoxyethane/EtOH was added 2-carboxythiophene-5-boronic acid (766 mg, 4.45 mmol), tetrakis(triphenylphosphine)palladium(0) (171 mg, 0.148 mmol), and 2M aqueous solution of Na2CO3 (4.45 mL, 8.91 mmol). The mixture was stirred at 95° C. for 3 hours then cooled to room temperature and partitioned between 2N NaOH and ethyl acetate. The layers were separated and the aqueous layer was acidified to pH<3 with conc. HCl. The aqueous layer was extracted (3×) with methylene chloride. The combined organic layers was washed with brine, dried over MgSO4, filtered, and evaporated to dryness to provide 450 mg of 5-(7-(tert-butoxycarbonyl(cyclopropyl)amino)-3-formylpyrazolo[1,5-a]pyrimidin-5-yl)thiophene-2-carboxylic acid. Some additional material which was in the first ethyl acetate layer was purified by silica gel chromatography (0%-20% MeOH/CH2Cl2) to provide another 550 mg of 5-(7-(tert-butoxycarbonyl(cyclopropyl)amino)-3-formylpyrazolo[1,5-a]pyrimidin-5-yl)thiophene-2-carboxylic acid (79%). LCMS (M+1=429)

reactant | tert-butyl 5-chloro-3-formylpyrazolo[1,5-a]pyrimidin-7-yl(cyclopropyl)carbamate | 2.97 mmol, 1 g | ClC1=NC=2N(C(=C1)N(C(OC(C)(C)C)=O)C1CC1)N=CC2C=O | C15H17ClN4O3
reactant | 2-carboxythiophene-5-boronic acid | 4.45 mmol, 766 mg | C(=O)(O)C=1SC(=CC1)B(O)O | C5H5BO4S
reactant | Na2CO3 | 8.91 mmol, 4.45 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.148 mmol, 171 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,2-dimethoxyethane EtOH | COCCOC.CCO
product | 5-(7-(tert-butoxycarbonyl(cyclopropyl)amino)-3-formylpyrazolo[1,5-a]pyrimidin-5-yl)thiophene-2-carboxylic acid | 450 mg | C(C)(C)(C)OC(=O)N(C1=CC(=NC=2N1N=CC2C=O)C2=CC=C(S2)C(=O)O)C2CC2 | C20H20N4O5S
